Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pre-syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a h/o Graves Disease, recent evaluation/workup for 
bradycardia, who presents w/ presyncope while eating ___. She 
developed sudden onset chest pressure, palpitations, and 
weakness,. She felt "woosy" and anxious. Her chest pressure was 
dull and located centrally. She denies SOB, cough, fever, 
chills, dysuria, headache, abdominal pain, nausea, vomiting, 
diarrhea, and constipation. She took 4 ASAs and called EMS.  

Of note, she was recently seen at ___ in ___ clinic for 
evaluation of sinus bradycardia, and had a ___ monitor 
placed. She also had a stress test on ___, which showed 
nonspecific EKG changes and some PVCs. She was wearing her 
___ monitor at the time of the presenting event.  

Per EMS, there was reportedly  a 4 beat run of V-Tach.  

In the ED, initial vitals were: T 97.4, P 74, BP 210/89 (later 
100-120's systolic without any intervention), RR 16, and O2sat 
99% RA.

EKG showed sinus rhythm with a rate in the high ___.   

Labs/studies notable for negative troponin x1  

On the floor, patient confirms the above with no new complaints. 
 

10 point review of systems negative other than those stated in 
HPI.  
 
Past Medical History:
Graves Disease  
Sinus Bradycardia  
HTN  
 
Social History:
___
Family History:
Hypertension in several family members; PAD in mother with leg 
amputations, father with PAD also. Otherwise, negative for 
premature CAD, arrhythmias, heart failure, cardiomyopathy, 
sudden or unexpected death.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==================
VS: Afebrile, 150s/50s, HR 45, RR 12  
GENERAL: WDWN black female in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. MMM. Mild proptosis. 
 
NECK: Supple. Thyroid not tender, mildly enlarged.  
CARDIAC: Rate low, rhythm regular, no murmur or rub or gallop  
LUNGS: CTAB, unlabored  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM:
=====================
Vital signs: T 97.7-98, BP 100-134/50-65, P 41-45, RR ___. 
O2sat 98-99% on RA. 
Tele: Sinus brady 40-50s overnight
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. MMM. Mild proptosis. 
 
NECK: Supple. Thyroid not tender, mildly enlarged.  
CARDIAC: Bradycardic, regular rhythm, no murmurs, rubs, or 
gallops  
LUNGS: CTAB
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e  
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:15PM BLOOD WBC-7.5 RBC-3.70* Hgb-12.0 Hct-36.3 
MCV-98 MCH-32.4* MCHC-33.1 RDW-12.6 RDWSD-45.1 Plt ___
___ 10:15PM BLOOD Neuts-36.8 Lymphs-55.5* Monos-6.0 Eos-1.2 
Baso-0.4 Im ___ AbsNeut-2.75 AbsLymp-4.16* AbsMono-0.45 
AbsEos-0.09 AbsBaso-0.03
___ 10:15PM BLOOD ___ PTT-33.1 ___
___ 10:15PM BLOOD Glucose-118* UreaN-18 Creat-0.9 Na-141 
K-3.5 Cl-106 HCO3-22 AnGap-17
___ 09:00AM BLOOD ALT-20 AST-20
___ 10:15PM BLOOD cTropnT-<0.01
___ 10:15PM BLOOD Albumin-4.3 Calcium-9.7 Phos-3.7 Mg-1.9
___ 09:00AM BLOOD TSH-1.5
___ 09:00AM BLOOD T4-6.2 T3-102 calcTBG-0.93 TUptake-1.08 
T4Index-6.7 Free T4-1.1

OTHER PERTINENT LABS:
=================
___ 10:15PM BLOOD ALT-19 AST-20 AlkPhos-98 TotBili-0.4
___ 07:20AM BLOOD cTropnT-<0.01
___ 07:20AM BLOOD %HbA1c-4.8 eAG-91

DISCHARGE LABS:
=============
___ 06:34AM BLOOD WBC-5.0 RBC-3.64* Hgb-11.6 Hct-36.8 
MCV-101* MCH-31.9 MCHC-31.5* RDW-12.5 RDWSD-47.2* Plt ___
___ 06:34AM BLOOD Glucose-94 UreaN-19 Creat-0.8 Na-141 
K-4.3 Cl-105 HCO3-27 AnGap-13
___ 06:34AM BLOOD Calcium-9.4 Phos-4.0 Mg-2.0

IMAGING:
==========
CXR (___): IMPRESSION: Stable borderline to mildly enlarged 
size of the cardiac silhouette.  No
pulmonary edema.  No significant change.

ECG (___): Sinus bradycardia. A-V conduction delay. Prolonged 
Q-T interval.
Non-specific anterior T wave inversions new since the previous 
tracing.

ECG (___): Sinus bradycardia. A-V conduction delay. 
Non-specific right precordial
T wave inversions. No major change from the previous tracing.

___ Read ___:

24 hours of ECG monitoring were performed in this patient with 
history 
of VEA/VT, palpitations, dysrhythmia and bradycardia to assess 
rhythm 
and rates. Reported medications include Amlodipine, Lorazepam, 
Methimazole and Aspirin. 
  
The predominant rhythm was sinus bradycardia at rates 37 to 98 
BPM, with 
an overall average rate of 50 BPM. AV conduction was normal to 
prolonged 
with maximum PR .24 second. The QT intervals and QRS duration 
were 
within normal limits. The maximum RR interval for the recording 
was 1.7 
seconds seen at 7:33 am. 
  
A total of 218 isolated APBs, 21 atrial couplets, and 14 runs of 
ectopic 
atrial rhythm/atrial tachycardia, duration 3 to 19 beats, at 
heart rates 
of 85 to 104 BPM were identified. 
  
A total of 268 isolated VPBs and 9 venricular couplets were 
documented. 
Episodes of ventricular bigeminy were noted. 
  
The cardiolog was not returned. 
  
IMPRESSIONS: 
1. Sinus rhythm/sinus bradycardia; intermittent PR prolongation, 
no 
   significant pauses. 
2. Moderate amount of atrial ectopy (APBs, short runs of ectopic 
atrial 
   rhythm). 
3. Moderate amount of ventricular ectopy (VPBs of at least 2 
different 
   morphologies, few couplets). 
4. No cardiolog returned. 

ECHO (___): The left atrium is normal in size. No atrial septal 
defect is seen by 2D or color Doppler. The estimated right 
atrial pressure is ___ mmHg. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). There is no left ventricular outflow obstruction at 
rest or with Valsalva. There is no ventricular septal defect. 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion. Compared with the 
prior study (images reviewed) of ___, no change. 
 
Brief Hospital Course:
Ms. ___ is a ___ female with a h/o Graves Disease and 
recently evaluated sinus bradycardia who presented with 
pre-syncope. 

# Pre-syncope and sinus bradycardia : Unclear etiology for 
pre-syncope, although the differential included vagal-mediated, 
secondary to sinus bradycardia, medication effect, or 
hypovolemia. More uncommon causes of sinus bradycardia could 
include collagen vascular disease, viral myocarditis, or lyme 
disease, although no evidence of these conditions was apparent. 
ACS was also unlikely given negative trops x2 and recent 
unrevealing stress test. Also, given hx of Graves disease, it 
was postulated that symptoms could be due to hypothyroidism due 
to overtreatment of Graves but this is unlikely in the setting 
of normal TFTs. 

Patient's ___ monitor was given to the lab so that recorded 
events could be analyzed. Preliminary report was negative, 
although finalized report should be discussed with Dr. ___ 
at next visit. Patient was maintained on telemetry throughout 
the admission, which showed sinus bradycardia but no other 
changes. Orthostatic pressures were documented and were normal. 
ECHO showed no abnormalities. Amlodipine was stopped in the 
hospital due to normal blood pressures and bradycardia.

Transitional Issues:
=========================
- Meds stopped: Amlodipine was stopped in the setting of 
normotension and bradycardia. Can consider restarting in the 
outpatient setting. 
- Follow-up with your PCP, ___, and endocrinologist as 
scheduled. 
- Follow-up with Dr. ___ finalized ___ 
monitoring report. Preliminary report shows predominant rhythm 
sinus bradycardia, with normal AV conduction normal to 
prolonged. She did have isolated APBs, with some atrial 
tachycardia. Consider tachy-___ as etiology for symptoms and 
further EP recommendations. 
-ECHO showed no abnormalities, please follow up final read
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. amLODIPine 10 mg PO DAILY 
3. Methimazole 5 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Methimazole 5 mg PO DAILY  
3. HELD- amLODIPine 10 mg PO DAILY  This medication was held. Do 
not restart amLODIPine until your primary care doctor sees you 
and tells you it is safe to do so

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Sinus bradycardia

Secondary:
Grave's disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted because you were experiencing symptoms of 
chest pressure and weakness. Your heart rate was also very slow. 


Since you were wearing a ___ monitor when you experienced 
these symptoms, the monitor was taken to the cardiology lab, and 
the rhythms were analyzed to look for any abnormalities. You 
should follow-up with your PCP and cardiologist.

Your labs in the hospital were normal, showing no clear 
infection, injury to your heart, or electrolyte imbalances to 
explain your symptoms. Your heart rhythm was monitored, and 
remained stable in rates of ___ to ___ without any irregularity. 
 Your ECHO also showed no abnormalities. Your preliminary ___ 
monitoring did not reveal any dangerous rhythm, but you should 
follow-up with Dr. ___ the final report and 
recommendations at your next appointment. 

It was a pleasure taking care of you. 

Sincerely, 
Your ___ Team
 
Followup Instructions:
___